US05773612
A) tert-Butyl 4-[[5-chloro-3-(2-chlorophenyl)-3-(ethylamino)-2,3-dihydro-2-oxoindol-1-yl]methyl]benzoate
This compound is prepared according to the procedure described in step A of EXAMPLE 96 from 1.19 g of 5-chloro-3-(2-chlorophenyl)-3-(ethylamino)-1,3-dihydroindol-2-one and 1.1 g of tert-butyl 4-bromomethylbenzoate. Chromatography on silica using a gradient of a hexane/AcOEt mixture (from 95/5; v/v to 90/10; v/v) as the eluent gives 0.9 g of the expected product, which is used as such.

reactant | 5-chloro-3-(2-chlorophenyl)-3-(ethylamino)-1,3-dihydroindol-2-one | 1.19 g | ClC=1C=C2C(C(NC2=CC1)=O)(NCC)C1=C(C=CC=C1)Cl | C16H14Cl2N2O
reactant | tert-butyl 4-bromomethylbenzoate | 1.1 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
solvent | hexane AcOEt | CCCCCC.CCOC(=O)C
product | tert-Butyl 4-[[5-chloro-3-(2-chlorophenyl)-3-(ethylamino)-2,3-dihydro-2-oxoindol-1-yl]methyl]benzoate | 0.9 g | ClC=1C=C2C(C(N(C2=CC1)CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O)(NCC)C1=C(C=CC=C1)Cl | C28H28Cl2N2O3
